US07148226B2
Preparation of Compound 3-(3-Chloro-5-ethyl-4-methoxy-phenyl)-1-cyclopentyl-propan-1-one
A mixture of 5-bromo-1-chloro-3-ethyl-2-methoxy-benzene (2 g, 8 mmol), 1-Cyclopentyl-2-propen-1-ol (1.3 g, 10.4 mmol), dichlorobis (triphenylphosphine) palladium (II) (110 mg, 0.16 mmol), and sodium bicarbonate (0.81 g, 9.6 mmol) in N-methylpyrrolidinone (15 mL) was heated to 140° C. under N2 for 5 h. The reaction mixture was partitioned between 1N HCl and EtOAc. The organic layer was washed with saturated NaHCO3, brine, dried over Na2SO4 and concentrated to black oil. The oil was purified by flash column chromatography (0% to 10% EtOAc in hexanes) to give the desired product (1.9 g, 82%). 1H NMR (400 MHz, CDCl3): δ 1.20 (t, J=7.6 Hz, 3 H), 1.53–1.81 (m, 8 H), 2.65 (q, J=7.6 Hz, 2 H), 2.74 (m, 2 H), 2.79–2.87 (m, 3 H), 3.81 (s, 3 H), 6.90 (s, 1 H), 7.03 (m, 1 H).

reactant | 5-bromo-1-chloro-3-ethyl-2-methoxy-benzene | 8 mmol, 2 g | BrC=1C=C(C(=C(C1)Cl)OC)CC | C9H10BrClO
reactant | 1-Cyclopentyl-2-propen-1-ol | 10.4 mmol, 1.3 g | C1(CCCC1)C(C=C)O | C8H14O
reactant | sodium bicarbonate | 9.6 mmol, 0.81 g | C([O-])(O)=O.[Na+]
solvent | N-methylpyrrolidinone | 15 mL | CN1C(CCC1)=O | C5H9NO
product | 3-(3-Chloro-5-ethyl-4-methoxy-phenyl)-1-cyclopentyl-propan-1-one | 1.9 g, 82% | ClC=1C=C(C=C(C1OC)CC)CCC(=O)C1CCCC1 | C17H23ClO2
